data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,7019,"CO[C:1](C(C)C)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1561,"C1=CC=CC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCCCCCCC=CCCCCCCC[C:1](OCC1=CC=CC=C1)([OH2+:2])[OH:3].OCC1=CC=CC=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5669,"CC[NH+](CC)CC.COC1=C(OC)C=C(C2(CC[C:1](C[Si](C)(C)C)=[CH2:2])CC(=O)[N+:3](C)=[CH:4]2)C=C1.CS(=O)(=O)[O-].[Cl-]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,6775,"CO[PH](Cl)(OC)[O+:1](C)[H:2].C[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6028,"CCN(CC)[C:1](=[O:2])[CH:3]=[CH2:4].[Li][Cu:5]([C]1=CC=CC=C1)[C:6]1=CC=CC=C1|((5, 6), 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7085,"C=[C:1](C)[Mg:2][Br].CC(=O)O[C:3](C)=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6596,"C=C1CC23CC1C([O][Al:1]([O]C(C)C)[O]C(C)C)CC2C1(C)CCCC(C)(C(=O)OC)C1C3C(=O)OC.CC(C)=O.CC(C)O.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,3010,"COC1=C(Br)C=CC2=C(OC(C)C)C=[C:1]([CH:2]([O-:3])[O:4][O:5][C:6](C3=CC(Cl)=CC=C3)=[OH+:7])C=C21|(3, 2);((2, 1), 4);((4, 5), 6);((6, 7), 7)"
train,pmechdb_split_0,0,8855,"CCCOC(=O)CN[P+:1](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.N#N.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,159,"C[P+:1](O)(O)[O:2][CH3:3].C[S-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,4747,"O=C1CCC2(O)C3CC4=CC=C([O-:1])C5=C4C2(CCN3CC2CC2)C1O5.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2695,"C[O+:1](C1=CC=CC=C1)[Na:2]|((2, 1), 1)"
train,pmechdb_split_0,0,7379,"C1=CC(OCCCCC2=CNC=N2)=CC=C1C=[C:1]=[CH:2][OH:3].C1=CC=C([C+](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CCO.[H:4][OH2+:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9406,"CCNC(CCC=O)=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,50,"OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC(=[O+:1][H:2])CC1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2588,"C1CCC2=[NH+]CCCN2CC1.CC(=O)NC1=CC=C(S(=O)(=O)[NH:1][N-:2][N:3]=C(C(=O)OC2C(=O)N(CC3=CC=CC=C3)C3=C2C=CC=C3)C2=CC=CC=C2)C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6476,"[H:1][AlH3-:2].[O-]CC[CH:3]=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6153,"CC(C)(C)OC(=O)NCC(=O)[O:1][H:2].CC(C)NC(OC(=O)CNC(=O)OC(C)(C)C)=[N:3]C(C)C.CCC1(O)C(=O)OCC2=C1C=C1C3=C(C=C4C=CC=CC4=N3)CN1C2=O.CN(C)C1=CC=NC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7743,"BrC1=CO[CH:1]=[CH:2]1.O=[N+:3]=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8072,"CCOCCC(N(CC)CC)=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7218,"CC[O-:1].N#C[CH:2]([N+](=O)[O-])[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3248,"CC1(C)C=CC(=O)C(C)(C[CH+:1][C:2](C)(O)[Si-:3](C)(C)(C)OC(=O)C2=CC(Cl)=CC=C2)C1|((3, 2), 1)"
train,pmechdb_split_0,0,2102,"C[Si](C)(C)OCC[O:1][Si](C)(C)C.C[Si](C)(C)[O+:2]=[C:3]1CCC2=C(C=CC=C2)O1.O=S(=O)([O-])C(F)(F)F|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8719,"CCOC(O)(CCC#N)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8281,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCO.CCOC(=O)C1=N[N+:1](C2=CC(C#N)=CC=C2)([H:2])C(O)(C2=CC=CO2)C1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4199,"CC#CC(C)[N-:1]C.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3286,"O=[S+:1](=O)O.[NH3+]C1=CC=C[CH:2]=[CH:3]1|((3, 2), 1)"
train,pmechdb_split_0,0,3458,"C1=CC=C(C[OH:1])C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1=CC=CC=C1.O=C1CC(C(O)(O)[O+:2](CC2=CC=CC=C2)[H:3])C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3017,"CC(C)(C)C(=O)[O-:1].CCO.CC[O+:2]=[C:3](OCC1=CC(O[Si](C)(C)C(C)(C)C)C2(C)C(=O)OCC12C)[CH2:4][H:5]|(1, 5);((5, 4), 3);((3, 2), 2)"
train,pmechdb_split_0,0,8186,"CCOC(=O)[CH:1](CCC[C:2](C#N)=[C:3](OCC)[O-:4])[Br:5]|(4, 3);((3, 2), 1);((1, 5), 5)"
train,pmechdb_split_0,0,505,"CCN1CCC23C4=C5C=CC([O+](C)[B-:1](Br)(Br)[Br:2])=C4OC2C(=O)CCC3(O)C1C5|((1, 2), 2)"
train,pmechdb_split_0,0,5478,"CC(=O)O[C:1](C)=[O:2].CC(=O)[O-].CC1CC(O)(C[S+](C2=CC=CC=C2)[O-:3])C(C)(CCCO[Si](C)(C)C(C)(C)C)C=C1CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C.[Na+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7605,"C[P:1](C)C.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6328,"O[P:1](O)(O)=[O:2].[H:3][OH2+:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5524,"Cl[P:1](Cl)Cl.[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,820,"CCO[C:1](CCC[CH:2]=[C:3](OCC)[O-:4])=[O:5]|(4, 3);((3, 2), 1);((1, 5), 5)"
train,pmechdb_split_0,0,3701,"BrC(Br)Br.CC(CCO)CCO[P:1](C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[Br:2]|((1, 2), 2)"
train,pmechdb_split_0,0,9547,"C[C+:1]1CCC(=O)[CH:2]1[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,6373,"CC1=CC=C(S(=O)(=O)[O:1][CH:2]2CC(CC(C)C)CC(C)C2OC(C)=[O:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3666,"CC1(O)CC1.CN(C)C1=CC=[N:1]C=C1.Cl[C:2](C1=CC=CS1)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,701,"C=C[NH2+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3343,"CC[C:1]([CH:2](C)[H:3])=[OH+:4].C[NH:5]C|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,10239,"C[S+:1]=[CH:2][O-]|((2, 1), 1)"
